US07504408B2
A suspension of 4-chloro-6-methoxyquinazolin-7-ol (1.2 g, 5.8 mmol), 1 bromo 2 chloroethane (5.69 ml, 6.8 mmol), potassium carbonate (2.36 g, 17.4 mmol) and dimethylformamide (15 ml) were heated to 90 C for 1.5 hours. The excess potassium carbonate was filtered off and the reaction evaporated under reduced pressure. The residue was purified by flash chromatography on silica eluting with a mixture of 60-100% dichlormethane in hexane and 30-50% ethyl acetate in hexane to give 4-chloro-7-(2-chloroethoxy)-6-methoxyquinazoline as a solid (0.89 g, 57%). NMR Spectrum: (CDCl3) 3.98 (t, 2H), 4.08 (s, 3H), 4.47 (t, 2H), 7.36 (s, 1H), 7.42 (s, 1H), 8.87 (s, 1H). Mass Spectrum: M+H+ 273.

reactant | 4-chloro-6-methoxyquinazolin-7-ol | 5.8 mmol, 1.2 g | ClC1=NC=NC2=CC(=C(C=C12)OC)O | C9H7ClN2O2
reactant | bromo 2 chloroethane | 6.8 mmol, 5.69 ml | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 17.4 mmol, 2.36 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-chloro-7-(2-chloroethoxy)-6-methoxyquinazoline | 0.89 g, 57% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCl | C11H10Cl2N2O2
